US06548522B1
N-Cyclopropyl-2,2-diphenyl-acetamide
The title compound, white solid, m.p. 292° C. and MS: m/e=251 (M+) was prepared in accordance with the general method of example 1 from diphenylacetyl chloride and cyclopropylamine.

reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | N-Cyclopropyl-2,2-diphenyl-acetamide | C1(CC1)NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H17NO
